US06008243
As described in Example 1(a) for the preparation of 3-biphenyl-4-yl-furan, 4-bromobenzonitrile (9.42 g, 51.8 mmol) and 4-bromophenylboric acid (5.20 g, 25.9 mmol) were coupled in EtOH to afford 4.50 g (67%) of 4'-bromo-biphenyl-4-carbonitrile as a grey powder, mp 147-8° C. (lit 153-5° C.; McNamara, J.; Gleason, W. B. J. Org. Chem. 1976, 41, 1071). The material had an NMR spectrum that matched literature (see Amatore, C.; Juland, A.; Negri, S. J. Organomet. Chem. 1990, 390, 389-398) and was typically used without further purification.

reactant | 3-biphenyl-4-yl-furan | C1(=CC=C(C=C1)C1=COC=C1)C1=CC=CC=C1 | C16H12O
reactant | 4-bromobenzonitrile | 51.8 mmol, 9.42 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | 4-bromophenylboric acid | 25.9 mmol, 5.20 g | BrC1=CC=C(C=C1)OB(O)O | C6H6BBrO3
solvent | EtOH | CCO | C2H6O
product | 4'-bromo-biphenyl-4-carbonitrile | 4.50 g, 67% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H8BrN
